US07208513B2
A. N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-piperidylpropanamide
To a solution of 3-piperidyl propanoic acid (0.125 g, 0.796 mmol) in 7 mL of dichloromethane was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (0.190 g, 0.99 mmol). After 10 min at room temperature, 3-{1-perhydro-2H-pyran-2-yl -5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.200 g, 0.59 mmol) was then added as a solid followed by 2 mL of dimethyl formamide. The reaction mixture was stirred at room temperature overnight. The completion of the reaction mixture was achieved after reacting an additional equivalent of reagents and stirring at room temperature for 24 hours. The crude mixture was partitioned between water and dichloromethane. The crude was not purified (yield not calculated). ES-MS (m/z) 742 [M+H]+.

reactant | 3-piperidyl propanoic acid | 0.796 mmol, 0.125 g | N1CC(CCC1)C(C(=O)O)C | C8H15NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.99 mmol, 0.190 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-{1-perhydro-2H-pyran-2-yl -5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.59 mmol, 0.200 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-piperidylpropanamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(C(C)C1CNCCC1)=O | C47H47N7O2
